US03974161
C. Ethyl 7-fluoropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate
A mixture of diethyl oxalate (57.2 g., 0.392 mole) and 6-fluoro-2-aminoquinoline-3-carboxamide (5.34 g., 0.0261 mole) is heated for 18 hours at 160° C. under a nitrogen atmosphere and then allowed to cool to room temperature. Hexane (300 ml.) is added, the mixture stirred and filtered to provide the desired product. It is washed with hexane and dried. Yield = 4.9 g. (71%); m.p. 272° C. (dec.).

reactant | diethyl oxalate | 0.392 mole, 57.2 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 6-fluoro-2-aminoquinoline-3-carboxamide | 0.0261 mole, 5.34 g | FC=1C=C2C=C(C(=NC2=CC1)N)C(=O)N | C10H8FN3O
solvent | Hexane | 300 ml | CCCCCC | C6H14
product | Ethyl 7-fluoropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | FC=1C=C2C=C3C(=NC2=CC1)N=C(NC3=O)C(=O)OCC | C14H10FN3O3
